US06180622B2
Iodomethane (1.70 g) is added to 70.6 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-3-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate (stereoisomer A) described in Example 6-b), and the mixture is stirred in an argon atmosphere at room temperature in a light-shielded state for 14 hr. The excess reagent is removed by evaporation under reduced pressure, and the residue is purified by column chromatography on Sephadex LH-20 (chloroform:methanol=1: 1) to give 83.4 mg of allyl(1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(6-methylimidazo[5,1-b]thiazolium-3-yl)methyl]pyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylate iodide (stereoisomer A) as a light yellow amorphous material.

reactant | Iodomethane | 1.70 g | IC | CH3I
reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-3-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 70.6 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1C(C=1N2C(SC1)=CN=C2)O)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H32N4O7S2
product | allyl(1R,5S,6S)-6-((1R)-1-hydroxyethyl)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(6-methylimidazo[5,1-b]thiazolium-3-yl)methyl]pyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylate iodide | 83.4 mg | [I-].O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@@H]2CN([C@@H](C2)C(C=2[N+]=3C(SC2)=CN(C3)C)O)C(=O)OCC=C)C(=O)OCC=C)C1=O | InChI=1S/C28H35N4O7S2.HI/c1-6-8-38-27(36)23-25(15(3)22-21(16(4)33)26(35)32(22)23)41-17-10-18(30(11-17)28(37)39-9-7-2)24(34)19-13-40-20-12-29(5)14-31(19)20;/h6-7,12-18,21-22,24,33-34H,1-2,8-11H2,3-5H3;1H/q+1;/p-1/t15-,16-,17+,18+,21-,22-,24?;/m1./s1
